### PR TITLE
coreflection between 2-models and 1-models

### PR DESCRIPTION
**Pull request by amblafont**

### CODE REVIEW

File: Modules/SoftEquations/CatOfTwoSignatures.v [hunk 1]
```diff
@@ -306,19 +307,13 @@ Definition TwoSignature_To_One_right_adjoint : is_right_adjoint (pr1_category tw
...
-      apply id_right.
-  - intro t.
-    assert (ht' := hfiberpr2 _ _ t).
-    apply base_paths in ht'.
-    apply subtypeEquality'; [| apply homset_property].
-    etrans;[|apply ht'].
-    apply pathsinv0.
-    apply (id_right (C := signature_category)).
+  use isounit_coreflection.
+Proof.
```
Comment (benediktahrens) [inline Modules/SoftEquations/CatOfTwoSignatures.v]: Why is there a tactic before `Proof`?

File: Modules/SoftEquations/CatOfTwoSignatures.v [hunk 2]
```diff
@@ -429,6 +425,75 @@ Proof.
...
+    apply idpath.
+Defined.
+      
+
+Definition TwoMod_To_One_right_adjoint : is_right_adjoint Two_to_OneMod_functor :=
+  right_adjoint_left_from_partial (X := MOD1) _ _ _ universal_OneMod_to_TwoMod.
+
+Lemma OneMod_to_TwoMod_fully_faithful : fully_faithful (left_adjoint TwoMod_To_One_right_adjoint).
+  use isounit_coreflection.
+Proof.
```
Comment (benediktahrens) [inline Modules/SoftEquations/CatOfTwoSignatures.v]: Why is there a tactic before `Proof` ?

**Comment by benediktahrens** [comment]
lgtm modulo unconventional positioning of `Proof`
